US06306895B1
To a solution of methyl (S)-6-(4-fluorophenoxy)-5-hydroxy-hexanoate (0.8 g 3.12 mmol) in CH2Cl2 (20 ml), a catalytic amount of PTSA (10 mg) was added and the reaction mixture was stirred at 40° C. for 12 h. The reaction was then neutralised with sodium bicarbonate and the product extracted with dichloromethane. The organic layer was dried (Na2SO4) and concentrated. The crude product on purification on a silica gel (EtOAc-light petroleum (1:3) as eluent) gave (6S)-6-(4-fluorophenoxymethyl)-tetrahydropyran-2-one (0.5 g, 70%) as a colourless liquid. TLC:ethyl acetate-light petroleum (1:4), Rf=0.3. Optical rotation [α]D: +19° (c 0.9, CHCl3). 1H NMR (CDCl3, 200 MHz): δ 1.7-2.15 (m, 4H), 2.48-2.7 (m, 2H), 3.95-4.15 (m, 2H), 4.55-4.7 (m, 1H), 6.77-7.0 (m, 4H).

reactant | methyl (S)-6-(4-fluorophenoxy)-5-hydroxy-hexanoate | 3.12 mmol, 0.8 g | FC1=CC=C(OC[C@H](CCCC(=O)OC)O)C=C1 | C13H17FO4
reactant | PTSA | 10 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (6S)-6-(4-fluorophenoxymethyl)-tetrahydropyran-2-one | 0.5 g, 70% | FC1=CC=C(OC[C@@H]2CCCC(O2)=O)C=C1 | C12H13FO3
